US03998866
A solution of 41.5 grams (0.5 mole) of allyl isocyanate and 72.25 grams (0.5 mole) of p-chlorobenzenethiol in 50 ml dimethyl sulfide was irradiated with an ultraviolet lamp in the manner described in Example 1. Nmr indicated that in 48 hours 32% of the allylic double bonds reacted with the thiol to form the allylic monoadduct, i.e. 3-p-chlorophenylthiopropyl isocyanate. No other products could be observed.

reactant | allyl isocyanate | 0.5 mole, 41.5 grams | C(C=C)N=C=O | C4H5NO
reactant | p-chlorobenzenethiol | 0.5 mole, 72.25 grams | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | dimethyl sulfide | 50 ml | CSC | C2H6S
product | 3-p-chlorophenylthiopropyl isocyanate | ClC1=CC=C(C=C1)SCCCN=C=O | C10H10ClNOS
